US07834009B2
N-{3-[7-Hydroxy-8-methyl-8-(3-methyl-butyl)-5-oxo-1,2,3,5,8,8a-hexahydro-indolizin-6-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of 2,5-dimethyl-2-pyrrolidin-2-yl-hexanoic acid ethyl ester (266 mg, 1.1 mmol), (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (367 mg, 1.1 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (274 mg, 1.43 mmol) in N,N-dimethylformamide (8 mL) was treated with N-methylmorpholine (289 mg, 2.86 mmol) and stirred for 1 h. The reaction was quenched with 1.0 M aqueous hydrochloric acid solution, extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude oil was dissolved in ethanol, treated with a 60% oil dispersion of sodium hydride (176 mg, 7.33 mmol) and heated to a vigorous reflux for 48 h. Upon cooling to 25° C., the reaction mixture was over ice in a 1.0 M aqueous hydrochloride solution. The resulting precipitate was collected by vacuum filtration to afford the crude product as a tan solid. The crude residue was purified by prep-HPLC to afford two separate diastereomers of the desired product, N-{3-[7-hydroxy-8-methyl-8-(3-methyl-butyl)-5-oxo-1,2,3,5,8,8a-hexahydro-indolizin-6-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide, as tan solids. Assignment of the relative or absolute configuration of the stereocenters was not attempted. Diasteromer 1 (122 mg, 22%): 1H NMR (400 MHz, CD2Cl2) δ: 0.84-0.90 (6H, m), 1.27 (3H, s), 1.84-2.20 (2H, m), 3.07 (3H, s), 3.50-3.58 (1H, m), 3.64-3.70 (1H, m), 3.90-3.95 (1H, m), 5.34 (2H, d, J=1.6 Hz), 6.83 (1H, s), 7.25-7.28 (1H, m), 7.54-7.58 (1H, m), 7.66-7.68 (1H, m), 14.22 (1H, s). LC-MS (ESI) calcd for C22H30N4O6S2 510.16, found 511.4 [M+H+]. Diasteromer 2 (67 mg, 12%): 1H NMR (400 MHz, CD2Cl2) δ: 0.93-0.97 (6H, m), 1.14 (2H, s), 1.22-1.45 (3H, m), 1.52-1.60 (1H, m), 1.83-2.19 (5H, m), 3.06 (3H, s), 3.42-3.59 (1H, m), 3.76-3.96 (2H, m), 5.34 (1H, s), 6.93-6.94 (1H, m), 7.27 (1H, d, J=8.8 Hz), 7.56-7.59 (1H, m), 7.66-7.69 (1H, m), 14.30 (1H, bs), 15.27 (1H, s). LC-MS (ESI) calcd for C22H30N4O6S2 510.16, found 511.4 [M+H+].

reactant | 2,5-dimethyl-2-pyrrolidin-2-yl-hexanoic acid ethyl ester | 1.1 mmol, 266 mg | C(C)OC(C(CCC(C)C)(C1NCCC1)C)=O | C14H27NO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 1.1 mmol, 367 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.43 mmol, 274 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 2.86 mmol, 289 mg | CN1CCOCC1 | C5H11NO
reactant | sodium hydride | 7.33 mmol, 176 mg | [H-].[Na+]
reactant | hydrochloride | 1.0 M | Cl | ClH
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-{3-[7-Hydroxy-8-methyl-8-(3-methyl-butyl)-5-oxo-1,2,3,5,8,8a-hexahydro-indolizin-6-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | OC1=C(C(N2CCCC2C1(CCC(C)C)C)=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O | C22H30N4O6S2
